US04571345
D-Alanine (5 g, 0.056 mole) was dissolved in dimethylformamide (100 ml) and treated with chlorotrimethylsilane (6.7 g, 0.063 mole). The reaction mixture was stirred at room temperature until homogeneous (approx. 1 hour). Meanwhile, Nα -9-fluorenylmethyloxycarbonyl-β-benzyl-L-aspartic acid (22.3 g, 0.050 mole) was dissolved in dimethylformamide/tetrahydrofuran (1:1, v/v, 200 ml), cooled to -15° C. and treated with N-methylmorpholine (5.5 ml, 0.050 mole) and isobutyl chloroformate (6.5 ml, 0.050 mole). After 10 minutes' activation at -15° C., the precooled solution of D-alanine silyl ester from above was added, followed by a second equivalent of N-methylmorpholine (5.5 ml, 0.050 mole). The reaction mixture was allowed to warm to room temperature, stirred for 3 hours and then acidified (pH 1-2) using aqueous hydrochloric acid. The reaction mixture was stirred for 30 minutes and ethyl acetate added and the phases separated. The aqueous phase was re-extracted with ethyl acetate and the combined organic extracts washed with 1N hydrochloric acid (3×) and dried (MgSO4). After evaporation of the solvent under reduced pressure the residue was crystallized from ethyl acetate/hexanes to give Nα -9-fluorenylmethyloxycarbonyl-β-benzyl-L-aspartyl-D-alanine (22.5 g), m.p. 114°-116° C., which was homogeneous by TLC. The nmr spectrum of the product was consistent with the assigned structure.

reactant | D-Alanine | 0.056 mole, 5 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | chlorotrimethylsilane | 0.063 mole, 6.7 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | Nα -9-fluorenylmethyloxycarbonyl-β-benzyl-L-aspartic acid | 0.050 mole, 22.3 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C(=O)O)CC1=CC=CC=C1)C(=O)O | C26H23NO6
reactant | N-methylmorpholine | 0.050 mole, 5.5 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.050 mole, 6.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | D-alanine silyl ester | [SiH3]OC([C@H](N)C)=O | C3H9NO2Si
reactant | N-methylmorpholine | 0.050 mole, 5.5 ml | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide tetrahydrofuran | 200 ml | CN(C=O)C.O1CCCC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Nα -9-fluorenylmethyloxycarbonyl-β-benzyl-L-aspartyl-D-alanine | 22.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C(O)=O)CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C29H28N2O7
